US04332737
A. Preparation of Tetraethylenepentamine Tris(phenylstearoylamide)
Into a 300 ml reaction flask equipped with a thermometer, an agitator and an addition funnel, 6 g (0.03 mole) tetraethylenepentamine was added and heated to 70°-75° C. with agitation. From the addition funnel, 32.4 g (0.09 mole) phenylstearic acid was added over 10 minutes. To insure complete addition of phenylstearic acid, 15-20 ml hexane was added to the addition funnel and thence into the reaction mixture after hexane was allowed to evaporate away, the contents of the flask was placed under reduced pressure and heated to 175° C. with agitation. Heating was continued at 175° C. for 2 hours allowing the condensation water to distill off. The product, tetraethylenepentamine tris(phenylstearoylamide) was viscous, amber colored liquid.

reactant | tetraethylenepentamine | 0.03 mole, 6 g | NCCNCCNCCNCCN | C8H23N5
reactant | phenylstearic acid | 0.09 mole, 32.4 g | C1(=CC=CC=C1)C(C(=O)O)CCCCCCCCCCCCCCCC | C24H40O2
reactant | hexane | CCCCCC | C6H14
reactant | hexane | 15-20 ml | CCCCCC | C6H14
product | Tetraethylenepentamine Tris(phenylstearoylamide) | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC(=O)[NH-].C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC(=O)[NH-].C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC(=O)[NH-].NCCNCCNCCNCCN | InChI=1S/3C24H41NO.C8H23N5/c3*25-24(26)22-18-13-11-9-7-5-3-1-2-4-6-8-10-12-15-19-23-20-16-14-17-21-23;9-1-3-11-5-7-13-8-6-12-4-2-10/h3*14,16-17,20-21H,1-13,15,18-19,22H2,(H2,25,26);11-13H,1-10H2/p-3
